US03932429
0.36 g of 69% sodium hydride is added to 40 ml of dimethylsulfoxide, The mixture is heated at 70°C for 30 minutes in a nitrogen atmosphere. 2 g of 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-7-one are added to the mixture at 10° to 15°C. Then, the mixture is stirred at room temperature for 1 hour. 2.1 G of methyl iodide are added to the mixture, and the mixture is further stirred at room temperature for 2 hours. The reaction mixture is poured into ice-water and extracted with ether. The ether extract is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is recrystallized from n-hexane. 2 g of 1-(3-methoxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane-7-one are obtained. M.p. 68° - 70°C.

reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-7-one | 2 g | COC=1C=C(C=CC1)C12CCCC(NC1=O)C2 | C14H17NO2
reactant | methyl iodide | CI | CH3I
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 1-(3-methoxyphenyl)-6-methyl-6-azabicyclo[3,2,1]octane-7-one | 2 g | COC=1C=C(C=CC1)C12CCCC(N(C1=O)C)C2 | C15H19NO2
